US05439925
(d) Allyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthylcarbamoylmethyl)benzoate
In a manner similar to Example 4(c), by reaction of 2 g (10 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthylamine with 2.2 g (10 mmol) of 4-(allyloxycarbonyl)phenylacetic acid, 3.7 g (92%) of the expected ester, melting point 49°-50° C., are obtained.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthylamine | 10 mmol, 2 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)N)C | C14H21N
reactant | 4-(allyloxycarbonyl)phenylacetic acid | 10 mmol, 2.2 g | C(C=C)OC(=O)C1=CC=C(C=C1)CC(=O)O | C12H12O4
product | Allyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl -2-naphthylcarbamoylmethyl)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)NC(=O)CC1=CC=C(C(=O)OCC=C)C=C1)C | C26H31NO3
